US09428510B2
876 mg (2 eq) of sodium hydride is added gradually at 0° C. under nitrogen to a solution of 865 mg of 5-hydroxynicotinonitrile (7.2 mmol) in 15 mL of dimethylacetamide. The mixture is stirred 10 min at 0° C. before adding 2.24 g (1.5 aq) of 3,5-difluorobenzyl bromide. The mixture is placed under stirring for 2.5 additional hours before being diluted in an ethyl acetate fraction and being washed with aqueous fractions. The organic phases are isolated, dried and concentrated. The solid residue obtained is recrystallized in methanol to yield 1.1 g (68% of 5-(3,5-difluorobenzyloxy) nicotinonitrile in the form of a beige powder.

reactant | sodium hydride | 876 mg, 2 eq | [H-].[Na+]
reactant | 5-hydroxynicotinonitrile | 7.2 mmol, 865 mg | OC=1C=NC=C(C#N)C1 | C6H4N2O
reactant | 3,5-difluorobenzyl bromide | 2.24 g | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 15 mL | CC(=O)N(C)C | C4H9NO
product | 5-(3,5-difluorobenzyloxy) nicotinonitrile | 68% | FC=1C=C(COC=2C=NC=C(C#N)C2)C=C(C1)F | C13H8F2N2O
